US08242145B2
Step 1: [(S)-2-(3,5-Bis-trifluoromethyl-phenyl)-1-methyl-2-oxo-ethyl]-carbamic acid benzyl ester
Prepared according to the procedure described in Example 16, Step 2, using the following starting materials: [(S)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid benzyl ester and 3,5-bis(trifluoromethyl)bromobenzene.

reactant | [(S)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H](C)C(N(C)OC)=O)=O | C13H18N2O4
reactant | 3,5-bis(trifluoromethyl)bromobenzene | FC(C=1C=C(C=C(C1)C(F)(F)F)Br)(F)F | C8H3BrF6
product | [(S)-2-(3,5-Bis-trifluoromethyl-phenyl)-1-methyl-2-oxo-ethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@H](C(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C)=O | C19H15F6NO3
